US04502880
1-(2-Chloroquinazoline-4-yl)pyridinium chloride (R1 =R2 =R3 =H; R4 =Cl, X⃝ =Cl⃝)
A 50-g portion of 2,4-dichloroquinazoline was added to 500 ml of pyridine at ambient temperature. The reaction was stirred overnight under a calcium sulfate drying tube, chilled and filtered. The solid was rinsed thoroughly with pyridine and dried in vacuo giving 65 g of solid 1-(2-chloroquinazoline-4-yl)pyridinium chloride (m.p. 105°-107° C.; mixture melting point with 2,4-dichloroquinazoline 80°-87° C.).

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-Chloroquinazoline-4-yl)pyridinium chloride | 65 g | [Cl-].ClC1=NC2=CC=CC=C2C(=N1)[N+]1=CC=CC=C1 | InChI=1S/C13H9ClN3.ClH/c14-13-15-11-7-3-2-6-10(11)12(16-13)17-8-4-1-5-9-17;/h1-9H;1H/q+1;/p-1
